US07608622B2
To a solution of 5-bromo-N3-(1-phenylethyl)pyrazine-2,3-diamine (1.77 g, 6.04 mmol) in anhydrous tetrahydrofuran (30 mL) was added diimidazol-1-ylmethanone (1.47 g, 9.06 mmol) at room temperature. After stirring for 20 h, the reaction was concentrated under reduced pressure. Purification of the resultant residue by flash chromatography [silica gel; hexanes/ethyl acetate (2:1)] afforded 6-bromo-1-(1-phenylethyl)-1,3-dihydroimidazo[4,5-b]pyrazin-2-one as a red brown solid (1.64 g, 85%). 1H NMR (300 MHz, DMSO): δ 12.31 (s, 1H), 8.04 (s, 1H), 7.40-7.27 (m, 5H), 5.61 (q, J=7.2 Hz, 1H), 1.90 (d, J=7.2 Hz, 3H).

reactant | 5-bromo-N3-(1-phenylethyl)pyrazine-2,3-diamine | 6.04 mmol, 1.77 g | BrC=1N=C(C(=NC1)N)NC(C)C1=CC=CC=C1 | C12H13BrN4
reactant | diimidazol-1-ylmethanone | 9.06 mmol, 1.47 g | N1(C=NC=C1)C(=O)N1C=NC=C1 | C7H6N4O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 6-bromo-1-(1-phenylethyl)-1,3-dihydroimidazo[4,5-b]pyrazin-2-one | 1.64 g, 85% | BrC1=CN=C2C(=N1)N(C(N2)=O)C(C)C2=CC=CC=C2 | C13H11BrN4O
